US08608899B2
3-(3-Hydroxypropyl)-1,1-di ethylurea (“C-1”)
15.0 g (139.5 mmol) of N,N-dimethylcarbamoyl chloride and 80 mL dioxane were added to a 250 mL two-necked flask with a reflux condenser. Then 13.66 g (135 mmol) triethylamine and 10.44 g (139 mmol) of 3-amino-1-propanol were added. After exothermic evolution of heat subsided, the mixture was stirred for 1 h at 60° C. and for 3 h at 90° C., where a light brown suspension slowly formed. After the suspension had been cooled down to 50° C., the solid was filtered out.

reactant | N,N-dimethylcarbamoyl chloride | 139.5 mmol, 15.0 g | CN(C(=O)Cl)C | C3H6ClNO
reactant | triethylamine | 135 mmol, 13.66 g | C(C)N(CC)CC | C6H15N
reactant | 3-amino-1-propanol | 139 mmol, 10.44 g | NCCCO | C3H9NO
solvent | dioxane | 80 mL | O1CCOCC1 | C4H8O2
product | 3-(3-Hydroxypropyl)-1,1-di ethylurea | OCCCNC(N(CC)CC)=O | C8H18N2O2
